US03979430
39.7 Gm. of 2-methyl-5H-dibenzo[a,d]cyclohepten-5-one is refluxed in 1200 ml. of carbon tetrachloride with 35.2 gm. of N-bromosuccinimide for 14 hours, irradiating with a 100 watt incandescent lamp. The solution is cooled, filtered and evaporated. The residue is recrystallized from methylene chloride/hexane to afford 27.3 gm., 51%, of 2-bromomethyl-5H-dibenzo[a,d]cyclohepten-5-one, m.p. 128°-132°C. Use of 2-ethyl-5H-dibenzo[a,d]cyclohepten-5-one gives 80% of 2-(α-bromoethyl)-5H-dibenzo[a,d]cyclohepten-5-one, m.p. 93°-95°C.

reactant | 2-methyl-5H-dibenzo[a,d]cyclohepten-5-one | CC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C16H12O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-bromomethyl-5H-dibenzo[a,d]cyclohepten-5-one | BrCC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C16H11BrO
reactant | 2-ethyl-5H-dibenzo[a,d]cyclohepten-5-one | C(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C17H14O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(α-bromoethyl)-5H-dibenzo[a,d]cyclohepten-5-one | 80% | BrC(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C17H13BrO
